US07943776B2
N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(pyridin-2-ylmethoxy)pyridine-2-carboxamide
The title compound was prepared from N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5 -hydroxypyridine-2-carboxamide and 2-chloromethyl-pyridine hydrochloride according to the method described for Example 4; NMR Spectrum: (DMSOd6) 0.58 (m, 2H), 0.69 (m, 2H), 2.32 (s, 3H), 2.86 (m, 1H), 5.40 (s, 2H), 7.33 (m, 1H), 7.39 (m, 1H), 7.58 (m, 2H), 7.72 (m, 1H), 7.88 (m, 1H), 8.13 (m, 1H), 8.21 (m, 1H), 8.36 (m, 1H), 8.51 (m, 1H), 8.61 (m, 1H), 10.14 (s, 11H); Mass Spectrum: M+H+ 403.

reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5 -hydroxypyridine-2-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C1=NC=C(C=C1)O)C | C17H17N3O3
reactant | 2-chloromethyl-pyridine hydrochloride | Cl.ClCC1=NC=CC=C1
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(pyridin-2-ylmethoxy)pyridine-2-carboxamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(=O)C1=NC=C(C=C1)OCC1=NC=CC=C1)C | C23H22N4O3
